US05780498
To a solution of N-(phenylmethylene)alanine t-butyl ester (210 mg, 0.90 mmol), 4-(3-thienyl)phenylmethyl bromide (250 mg, 0.99 mmol), and pyridine (7 ml, 0.09 mmol) in methylene chloride (1.8 ml) are added potassium hydroxide (505 mg, 9.0 mmol) and potassium carbonate (1.24 g, 9.0 mmol). The mixture is stirred at room temperature for 2 days, then filtered and washed with methylene chloride. The filtrate and washings are concentrated in vacuo to give a crude 3-[4-(3-thienyl)phenyl]alanine as a yellow oil.

reactant | N-(phenylmethylene)alanine t-butyl ester | 0.90 mmol, 210 mg | C(C)(C)(C)OC([C@@H](N=CC1=CC=CC=C1)C)=O | C14H19NO2
reactant | 4-(3-thienyl)phenylmethyl bromide | 0.99 mmol, 250 mg | S1C=C(C=C1)C1=CC=C(C=C1)CBr | C11H9BrS
reactant | pyridine | 0.09 mmol, 7 ml | N1=CC=CC=C1 | C5H5N
reactant | potassium hydroxide | 9.0 mmol, 505 mg | [OH-].[K+]
reactant | potassium carbonate | 9.0 mmol, 1.24 g | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 1.8 ml | C(Cl)Cl | CH2Cl2
product | 3-[4-(3-thienyl)phenyl]alanine | S1C=C(C=C1)C1=CC=C(C=C1)C[C@H](N)C(=O)O | C13H13NO2S
